US07786132B2
(iii) 1-(2-(5-Bromo-4-(5-(piperidin-1-ylmethyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
5-Bromo-2-chloro-4-(5-(piperidin-1-ylmethyl)thiophen-2-yl)pyrimidine (0.3 g, 0.8 mmol), 1-(2-aminoethyl)imidazolidin-2-one (0.123 g, 0.96 mmol) and isopropyl alcohol were all placed in a microwave tube. The tube was capped and heated to 170° C. in a Personal Chemistry microwave for 10 min. The reaction then diluted with dichloromethane washed with water, saturated sodium bicarbonate, water and brine. The organic layer was dried with sodium sulfate and purified by flash chromatography using a gradient of 2 to 12% methanol in dichloromethane to give a light yellow solid (0.23 g). MS (M+H)+ 465/476.

reactant | 5-Bromo-2-chloro-4-(5-(piperidin-1-ylmethyl)thiophen-2-yl)pyrimidine | 0.8 mmol, 0.3 g | BrC=1C(=NC(=NC1)Cl)C=1SC(=CC1)CN1CCCCC1 | C14H15BrClN3S
reactant | 1-(2-aminoethyl)imidazolidin-2-one | 0.96 mmol, 0.123 g | NCCN1C(NCC1)=O | C5H11N3O
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-(5-Bromo-4-(5-(piperidin-1-ylmethyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | 0.23 g | BrC=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC(=CC1)CN1CCCCC1 | C19H25BrN6OS
